US07037925B2
a) 4-Chloro-7-hydroxy-6-methoxy-3-quinolinecarboxamide.
A mixture of 7-Benzyloxy-4-chloro-6-methoxy-3-quinolinecarboxamide (1.0 g, 2.9 mmol) prepared analogous to the method described in Example 1 and thioanisole (1.75 ml, 14.1 mmol) in TFA (15 ml) was refluxed for three hours. After cooling, the solvents were removed at reduced pressure and the residue was poured on water and alkalized with aqueous ammonia. The precipitate was filtered, washed with water and dried affording 0.52 g (72% yield) of the title compound.

reactant | 7-Benzyloxy-4-chloro-6-methoxy-3-quinolinecarboxamide | 2.9 mmol, 1.0 g | C(C1=CC=CC=C1)OC1=C(C=C2C(=C(C=NC2=C1)C(=O)N)Cl)OC | C18H15ClN2O3
reactant | thioanisole | 14.1 mmol, 1.75 ml | C1(=CC=CC=C1)SC | C7H8S
solvent | TFA | 15 ml | C(=O)(C(F)(F)F)O | C2HF3O2
product | 4-Chloro-7-hydroxy-6-methoxy-3-quinolinecarboxamide | 0.52 g, 72% yield | ClC1=C(C=NC2=CC(=C(C=C12)OC)O)C(=O)N | C11H9ClN2O3
